US06110929
3-Aminoquinolin-4-ol hydrochloride (1.97 g, 10.0 mmol), triethylamine (1.01 g, 10.1 mmol) and valeric anhydride (9.3 g, 50.0 mmol) were combined and then heated at reflux for 18 hours. The reaction mixture was cooled to ambient temperature and then poured over ice. The mixture was adjusted to pH 12 with 10% sodium hydroxide. The mixture was stirred until all of the ice melted and then it was extracted with diethyl ether. The ether extracts were combined, dried over magnesium sulfate and then concentrated under vacuum to provide a tan solid. This material was purified by flash chromatography eluting with 3:2 ethyl acetate:dichloromethane to provide 1.45 g of 2-butyloxazolo[4,5-c]quinoline.

reactant | 3-Aminoquinolin-4-ol hydrochloride | 10.0 mmol, 1.97 g | Cl.NC=1C=NC2=CC=CC=C2C1O
reactant | triethylamine | 10.1 mmol, 1.01 g | C(C)N(CC)CC | C6H15N
reactant | valeric anhydride | 50.0 mmol, 9.3 g | C(CCCC)(=O)OC(CCCC)=O | C10H18O3
reactant | sodium hydroxide | [OH-].[Na+]
product | 2-butyloxazolo[4,5-c]quinoline | 1.45 g | C(CCC)C=1OC2=C(C=NC=3C=CC=CC23)N1 | C14H14N2O
